US04714698
4-Piperidino-2-piperazino-8-n-propylthio-pyrimido[5,4-d]-pyrimidine
Prepared analogously to Example 2 from 2-chloro-4-piperidino-8-n-propylthio-pyrimido[5,4-d]pyrimidine and piperazine in dimethylsulphoxide.

reactant | 2-chloro-4-piperidino-8-n-propylthio-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCCC)N2CCCCC2 | C14H18ClN5S
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 4-Piperidino-2-piperazino-8-n-propylthio-pyrimido[5,4-d]-pyrimidine | N1(CCCCC1)C=1C2=C(N=C(N1)N1CCNCC1)C(=NC=N2)SCCC | C18H27N7S
